US03975524
1-Morpholino-3-piperazino-isoquinoline was prepared analogous to Example 3 from 1 -morpholino-3-chloro-isoquinoline and piperazine. M.p. of its hydrochloride: 245°-247°C (from water); yield: 26% of theory.

reactant | 1 -morpholino-3-chloro-isoquinoline | O1CCN(CC1)C1=NC(=CC2=CC=CC=C12)Cl | C13H13ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
product | 1-Morpholino-3-piperazino-isoquinoline | yield: 26% | O1CCN(CC1)C1=NC(=CC2=CC=CC=C12)N1CCNCC1 | C17H22N4O
